US08440666B2
1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanone
N-Methoxy-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carboxamide (325.8 mg, 1.14 mmol) in tetrahydrofuran (2 mL) was mixed with methylmagnesium bromide (0.98 M in tetrahydrofuran, 4.32 mL, 4.23 mmol) under cooling with ice and the reaction mixture was warmed slowly to room temperature for 16 hours with stirring. After completion of the reaction, the reaction solution was mixed with saturated aqueous ammonium chloride, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1, to ethyl acetate/MeOH=20/1) to give the desired product (89.9 mg, 33% yield).

reactant | N-Methoxy-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carboxamide | 1.14 mmol, 325.8 mg | CON(C(=O)C=1C=NN(C1)COCC[Si](C)(C)C)C | C12H23N3O3Si
reactant | methylmagnesium bromide | 4.23 mmol, 0.98 M, 4.32 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanone | 89.9 mg, 33% yield | C[Si](CCOCN1N=CC(=C1)C(C)=O)(C)C | C11H20N2O2Si
